US04892961
Methyl (S)-(+)-3-(t-butyldimethylsilyloxy)-2-methylpropionate (1.31 g; 5.6 mmol) was dissolved in anhydrous ether (18.5 ml), and a hexane solution (8.4 ml) of 1M diisobutylaluminum hydride was added dropwise thereto at -78° C. in 5 minutes in an argon stream. After stirring for 30 minutes, methanol (0.09 ml) and then water (0.84 ml) were added thereto, and the resultant mixture was allowed to stand at room temperature, followed by stirring at the same temperature for 1 hour. The reaction mixture in gel was filtered, dried over anhydrous magnesium sulfate, and the solvent was distilled under reduced pressure. Purification of the oily residue by silica gel column chromatography using a mixture of hexane and ethyl acetate (9:1) gave (S)-(+)-3-(t-butyldimethylsilyloxy)-2-methylpropanal (0.89 g, yield, 78%) as a colorless oil.

reactant | Methyl (S)-(+)-3-(t-butyldimethylsilyloxy)-2-methylpropionate | 5.6 mmol, 1.31 g | [Si](C)(C)(C(C)(C)C)OC[C@@H](C(=O)OC)C | C11H24O3Si
reactant | hexane | 8.4 ml | CCCCCC | C6H14
reactant | diisobutylaluminum hydride | 1M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methanol | 0.09 ml | CO | CH4O
solvent | ether | 18.5 ml | CCOCC | C4H10O
solvent | water | 0.84 ml | O | H2O
product | (S)-(+)-3-(t-butyldimethylsilyloxy)-2-methylpropanal | 0.89 g, 78% | [Si](C)(C)(C(C)(C)C)OC[C@@H](C=O)C | C10H22O2Si
